US04472305
Condensation of BocProOH (4.30 g.) and HMePheOMe (2.74 g.) by the mixed anhydride method using diphenylphosphinyl chloride gave BocPro-MePheOMe in 77% yield. Demethylation of BocPro-MePheOMe (3.0 g.) using aqueous sodium hydroxide gave BocPro-MePheOH in 83% yield. Condensation of BocPro-MePheOH (1.71 g.) and HPheOBz (2.14 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-MePhe-PheOBz in 76% yield. Debenzylation of BocPro-MePhe-PheOBz (2.0 g.) by hydrogenation with palladium catalyst gave BocPro-MePhe-PheOH in 100% yield.

reactant | BocProOH | 4.30 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | HMePheOMe | 2.74 g | N([C@@H](CC1=CC=CC=C1)C(=O)OC)C | C11H15NO2
reactant | diphenylphosphinyl chloride | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
product | BocPro-MePheOMe | 77% yield | N1([C@H](C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)OC)C)CCC1)C(=O)OC(C)(C)C | C21H30N2O5
